US05006159
3-hydroxy-5-(3-hydroxyphenyl)cyclohex-2-en-1-one
A solution of 20 g (0.068 mol) of 2-propionyl-3-hydroxy-5-(4-benzyloxyphenyl)cyclohex-2-en-1-one in 250 mL of absolute ethanol was treated with 7.5 g of 5 percent palladium on carbon and shaken in a Parr® hydrogenator under 50 pounds of hydrogen pressure for 2 hours at room temperature. The reaction mixture was filtered through diatomaceous earth, diluted with 1 liter of water and extracted thrice with 100 mL portions of ethyl acetate. The combined extracts were washed with an aqueous saturated NaCl solution, dried over MgSO4, filtered, concentrated and cooled to precipitate the desired above named product as a greyish-white solid in a yield of 9.8 g (71 percent of theoretical). The product melted at 140°-150° C./ dec.

reactant | 2-propionyl-3-hydroxy-5-(4-benzyloxyphenyl)cyclohex-2-en-1-one | 0.068 mol, 20 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H22O4
reactant | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 7.5 g | [Pd] | Pd
product | 3-hydroxy-5-(3-hydroxyphenyl)cyclohex-2-en-1-one | OC1=CC(CC(C1)C1=CC(=CC=C1)O)=O | C12H12O3
